US07238808B2
5-[5-(3-Methyl-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 3-iodo-5-(3-methyl-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.32) (236 mg, 0.5 mmol) and 5-ethynyl-pyridin-2-ylamine (example D.1) (59 mg, 0.5 mmol) according to general procedure II. Obtained as a red solid (165 mg, 71%). MS (EI) 461.1 [(M)+]; mp 201° C.

reactant | 3-iodo-5-(3-methyl-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 236 mg | IC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)C(F)(F)F)C | C15H8F6IN3
reactant | 5-ethynyl-pyridin-2-ylamine | 0.5 mmol, 59 mg | C(#C)C=1C=CC(=NC1)N | C7H6N2
product | 5-[5-(3-Methyl-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine | CC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2C=CC(=NC2)N | C22H13F6N5
